US04604390
1-Chloro-6-methoxy-4-nitro-9H-xanthen-9-one
To 500 g of polyphosphoric acid stirred at 110° C. was added 62.9 g of 2-(5-chloro-2-nitrophenoxy)-4-methoxybenzoic acid, methyl ester. After 18 hours, the hot solution was poured into water, and the resulting precipitate collected. The solid was washed with water and isopropyl alcohol to give 57.9 g of the title compound, mp 211°-213° C. after recrystallization from DMF.

reactant | 2-(5-chloro-2-nitrophenoxy)-4-methoxybenzoic acid, methyl ester | 62.9 g | ClC=1C=CC(=C(OC2=C(C(=O)OC)C=CC(=C2)OC)C1)[N+](=O)[O-] | C15H12ClNO6
solvent | water | O | H2O
product | 1-Chloro-6-methoxy-4-nitro-9H-xanthen-9-one | 57.9 g | ClC1=CC=C(C=2OC3=CC(=CC=C3C(C12)=O)OC)[N+](=O)[O-] | C14H8ClNO5
